US07521457B2
b) N-indan-4-yl-acetamide
226 mg (1.7 mmol) indan-4-ylamine are combined with 5 ml acetic anhydride. The suspension is stirred for 16 h at 70° C. The resulting solution is stirred into 40 ml distilled water, adjusted to pH 7 with sodium carbonate and extracted three times with 30 ml of ethyl acetate. Then the organic phase is dried with MgSO4, the solvent is eliminated in vacuo and the crude product is purified by chromatography. The carrier used is silica gel and the eluant used is a mixture of cyclohexane:ethyl acetate (70:30).

reactant | indan-4-ylamine | 1.7 mmol, 226 mg | C1CCC2=C(C=CC=C12)N | C9H11N
reactant | acetic anhydride | 5 ml | C(C)(=O)OC(C)=O | C4H6O3
product | N-indan-4-yl-acetamide | C1CCC2=C(C=CC=C12)NC(C)=O | C11H13NO
